* 2 switch controlled by a digital input
.subckt switch2 p1 p2 p3 bit
b1 bitinv 0 V={5*inv(V(bit))}
S1 p1 p2 bitinv 0 myswitch
S2 p1 p3 bit 0 myswitch
.model myswitch SW(RON=0.1 ROFF=1e12 Vt=2.5 Vh=0)
.ends
